US07078425B2
2-Benzenesulfonylamino-3-(6-chloro-7-hydroxy-1H-indazol-4-yl)-N-(4-phenyl-butyl)-propionamide (30 mg, 0.057 mmol) is dissolved in DMF (1 mL) and K2CO3 is added followed by a slight excess of methyl bromoacetate (11 mg, 0.072 mmol). The reaction is allowed to stir for 36 h. The reaction is worked-up by diluting with EtOAc and washing with NH4Cl, 0.5 N HCl, water and brine. The solution is dried with MgSO4 and concentrated to provide a mixture of the intermediate ester and desired acid product as observed by LC/MS. The acid is purified by chromatography using a 10 g C18 sep-pak column (CH3CN/H2O) to provide {4-[2-benzenesulfonylamino-2-(4-phenyl-butylcarbamoyl)-ethyl]-6-chloro-1H-indazol-7-yloxy}-acetic acid. 1H NMR (500 MHz, DMSO-d6) δ 8.17 (d, 1H), 8.29 (bs, 1H), 7.94 (dd, 1H), 7.46 (d, 2H), 7.42 (dd, 1H), 7.28–7.24 (m, 4H), 7.16–7.14 (m, 3H), 6.84 (s, 1H), 4.59 (bs, 2H), 4.19–4.15 (m, 1H), 4.01–3.95 (m, 1H), 3.03–2.97 (m, 1H), 2.90–2.79 (m, 3H), 2.50 (obs, 2H), 1.43–1.38 (m, 2H), 1.22–1.17 (m, 2H); MS (ESI+) m/z 585 (M+H).

reactant | 2-Benzenesulfonylamino-3-(6-chloro-7-hydroxy-1H-indazol-4-yl)-N-(4-phenyl-butyl)-propionamide | 0.057 mmol, 30 mg | C1(=CC=CC=C1)S(=O)(=O)NC(C(=O)NCCCCC1=CC=CC=C1)CC1=C2C=NNC2=C(C(=C1)Cl)O | C26H27ClN4O4S
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl bromoacetate | 0.072 mmol, 11 mg | BrCC(=O)OC | C3H5BrO2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | {4-[2-benzenesulfonylamino-2-(4-phenyl-butylcarbamoyl)-ethyl]-6-chloro-1H-indazol-7-yloxy}-acetic acid | C1(=CC=CC=C1)S(=O)(=O)NC(CC1=C2C=NNC2=C(C(=C1)Cl)OCC(=O)O)C(NCCCCC1=CC=CC=C1)=O | C28H29ClN4O6S
